US04155913
12.1 g (0.05 mol) of 1,3-dihydro-5-phenyl-2H-thieno[2,3-e]-1,4-diazepin-2-one are heated to reflux for 35 minutes with 12.2 g (0.055 mol) of phosphorus pentasulphide in 400 ml of absolute pyridine, dry nitrogen being conducted through the solution. The solution is concentrated to 200 ml and the mixture separated on a 70 cm long column (φ3.5 cm) filled with 250 g of Silica gel [0.05 to 0.2 mm (Merck)]. The solution is concentrated under a vacuum and yields 1,3-dihydro-5-phenyl-2H-thieno[2,3-e]-1,4-diazepine-2-thione in the form of yellow crystals, melting point 208°-210° C.

reactant | 1,3-dihydro-5-phenyl-2H-thieno[2,3-e]-1,4-diazepin-2-one | 0.05 mol, 12.1 g | C1(=CC=CC=C1)C=1C2=C(NC(CN1)=O)SC=C2 | C13H10N2OS
reactant | phosphorus pentasulphide | 0.055 mol, 12.2 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-dihydro-5-phenyl-2H-thieno[2,3-e]-1,4-diazepine-2-thione | C1(=CC=CC=C1)C=1C2=C(NC(CN1)=S)SC=C2 | C13H10N2S2
